US06034150
Synthesis of Acetoxy Ethyl Maleimide (AcOEMI)
Maleic anhydride (172.32 g, 1.75 mol) was added to ethanolamine (107.34 g, 1.75 mol) and dissolved in 500 mL of acetone while stirring overnight in an ice bath. To the solution, 400 mL of acetic anhydride (4.23 mol) was added with sodium acetate (144 g, 1.75 mol). The solution was heated to 80° C. and stirred for 1 hour. The contents were poured into ice water and the acetic acid neutralized with K2CO3. The product was extracted with methylene chloride and then dried using magnesium sulfate. The product was purified by sublimation yielding white crystals, m.p. 76° C. (44.1 g, 13.45%) 1H-NMR (CDCl3, δ, ppm): 2.02 (3H, --CH3, s), 3.82-3.77 (2H, --NCH2 --, t), 4.25--4.20 (2H, --CH2O--, t), 6.75 (2H, --CH=CH--, s). 13C-NMR (CDCl3, δ, ppm): 20.7 (1C, --CH3), 37.0 (1C, --NCH2 --), 61.5 (1C, --CH2O--), 134.3 (2C, --CH=CH--), 170.5 (2C, --NC=O), 170.8 (1C, --OC=O).

reactant | Maleic anhydride | 1.75 mol, 172.32 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | ethanolamine | 1.75 mol, 107.34 g | C(O)CN | C2H7NO
reactant | acetic anhydride | 4.23 mol, 400 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 1.75 mol, 144 g | C(C)(=O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Acetoxy Ethyl Maleimide | C(C)(=O)OCCC=1C(=O)NC(C1)=O | C8H9NO4
